US08710043B2
Step 7. (S)—N-((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-2-oxo-1,2-dihydrooxazolo[5,4-b]pyridine-5-carboxamide
To a cooled (−78° C.), stirred mixture of (S)-5-amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-6-hydroxypicolinamide (400 mg, 0.00098 mol) in THF (4 mL) was added TEA (1.31 mL, 0.0090 mol, Spectrochem, India) and triphosgene (323 mg, 0.0010 mol, Spectrochem, India) in one lot and the reaction mixture was stirred for 2 h at the same temperature. The reaction was slowly warmed to room temperature overnight. After completion of the reaction (monitored by TLC, 50% EtOAc in hexane), the reaction mixture was quenched with water (2 mL) and extracted with EtOAc (2 mL×3). The combined organic layers were dried over anhydrous sodium sulfate and purified by column chromatography, silica (60-120 mesh) using 50-60% EtOAc in petroleum ether as an eluent, and subsequently purified further using Prep TLC plates, mobile phase 50% EtOAc in hexane to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ: 12.40 (s, 1H), 9.53 (d, J=7.2 Hz, 1H), 8.59 (d, J=4.4 Hz, 1H), 7.90-7.80 (m, 2H), 7.61-7.53 (m, 4H), 7.35 (d, J=8.8 Hz, 1H), 6.54 (d, J=7.2 Hz, 1H). MS (ESI, positive ion) m/z: 467.1 (M+H).

reactant | (S)-5-amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-6-hydroxypicolinamide | 0.00098 mol, 400 mg | NC=1C=CC(=NC1O)C(=O)N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F | C19H13F5N4O3
reactant | triphosgene | 0.0010 mol, 323 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (S)—N-((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-2-oxo-1,2-dihydrooxazolo[5,4-b]pyridine-5-carboxamide | FC=1C=C(C=CC1OC(F)(F)F)[C@H](NC(=O)C1=CC=C2C(=N1)OC(N2)=O)C2=NC=CC=C2F | C20H11F5N4O4
